US07851465B2
To a solution of (Z)-tert-butyl 4-(3-(2-bromobenzyl)-7-chloro-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)phenylcarbamate (3.3 g, 5.94 mmol) in dichloromethane (45 mL) was added dropwise at 0° C. trifluoroacetic acid (15 mL). After completion of the addition, the reaction mixture was stirred at 0° C. for 1 h then the temperature was raised to room temperature and kept at room temperature for 4 h. The reaction mixture was cooled down to 0° C. and treated with a solution of 10% NaOH in water until a pH>10 was obtained. The two layers were separated. The aqueous layer was extracted with dichloromethane (2×50 mL). The combined extracts were washed with brine (100 mL), dried (MgSO4) and evaporated in vacuo. The crude material was purified by flash column chromatography (eluted with 40% EtOAc in Hexane) to give (Z)-5-(4-aminophenyl)-3-(2-bromobenzyl)-7-chloro-1H-benzo[e][1,4]diazepin-2(3H)-one (2.35 g, 87%) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 3.45 (d, 2H), 3.71 (t, 1H), 5.62 (s, 2H), 6.53 (d, 2H), 7.10-7.17 (m, 3H), 7.22-7.25 (m, 2H), 7.33 (t, 1H), 7.46-7.61 (m, 3H), 10.64 (s, 1H). MS, m/z 455.19 [M+1]. Part V: Installation of Urea from C5-Aminoaryl Intermediate.

reactant | (Z)-tert-butyl 4-(3-(2-bromobenzyl)-7-chloro-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)phenylcarbamate | 5.94 mmol, 3.3 g | BrC1=C(CC2\N=C(/C3=C(NC2=O)C=CC(=C3)Cl)\C3=CC=C(C=C3)NC(OC(C)(C)C)=O)C=CC=C1 | C27H25BrClN3O3
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | [OH-].[Na+]
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (Z)-5-(4-aminophenyl)-3-(2-bromobenzyl)-7-chloro-1H-benzo[e][1,4]diazepin-2(3H)-one | 2.35 g, 87% | NC1=CC=C(C=C1)/C=1/C2=C(NC(C(\N1)CC1=C(C=CC=C1)Br)=O)C=CC(=C2)Cl | C22H17BrClN3O
